US04088775
(c) (2RS,3aR,4R,5R,6aS)-4-[(E)-3,3-Ethylenedioxy-4-(2-naphthyloxy)-1-butenyl]-5-(tetrahydropyran-2-yloxy)-perhydrocyclopenta[b]furan-2-ol
Under argon at -70°, 1.5 ml. of a 20% solution of diisobutylaluminum hydride was added to a solution, cooled to -60°, of 150 mg. of (1S,5R,6R,7R)-6-[(E)-3,3-ethylenedioxy-4-(2-naphthyloxy)-1-butenyl]-7-(tetrahydropyran-2-yloxy)-2-oxabicyclo[3,3,0]octan-3-one (prepared according to Example 5[b]) in 15 ml. of absolute toluene. After 30 minutes, the mixture was combined with 0.75 ml. of isopropanol and 0.75 ml. of water and agitated for 30 minutes at 0°, diluted with 150 ml. of methylene chloride, filtered off from the precipitated aluminum compound, and evaporated under vacuum, thus obtaining 146 mg. of the title compound as a colorless oil. IR: 3600, 1630, 1600, 970 cm-1.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | (1S,5R,6R,7R)-6-[(E)-3,3-ethylenedioxy-4-(2-naphthyloxy)-1-butenyl]-7-(tetrahydropyran-2-yloxy)-2-oxabicyclo[3,3,0]octan-3-one | C1OC(/C=C/[C@@H]2[C@H]3CC(O[C@H]3C[C@H]2OC2OCCCC2)=O)(COC2=CC3=CC=CC=C3C=C2)OC1 | C28H32O7
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | (2RS,3aR,4R,5R,6aS)-4-[(E)-3,3-Ethylenedioxy-4-(2-naphthyloxy)-1-butenyl]-5-(tetrahydropyran-2-yloxy)-perhydrocyclopenta[b]furan-2-ol | C1OC(/C=C/[C@H]2[C@@H](C[C@@H]3OC(C[C@@H]32)O)OC3OCCCC3)(COC3=CC2=CC=CC=C2C=C3)OC1 | C28H34O7
